US05807891
46c) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3-methoxyphenyl)methyl]hexanoic acid
In analogy with Example 44d), 1.315 g of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 49.9 ml of dimethoxyethane and 25.16 ml of water are hydrolysed with 12.36 ml of a 1M lithium hydroxide solution to give the title compound, which is directly subjected to further processing. TLC Rf (C)=0.09. FAB-MS (M+H)+ =444.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 1.315 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=CC=C1)OC | C25H31NO5
reactant | lithium hydroxide | 1M | [OH-].[Li+]
solvent | dimethoxyethane | 49.9 ml | C(OC)COC | C4H10O2
solvent | water | 25.16 ml | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3-methoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)OC)O)CC1=CC=CC=C1 | C25H33NO6
